US04166814
8.72 g of benzyl bromide were added dropwise in the course of one hour to a mixture of 9.6 g of 1,4-bis-(2,2,6,6-tetramethylpiperidin-4-yl-methyl)-benzene (compound No. 9) 7.6 g of finely powdered potassium carbonate and 0.5 g of potassium iodide in 50 ml of ethyl methyl ketone, at the boil (bath temperature about 100° C.), whilst stirring, and the reaction mixture was stirred at this temperature for a total of 96 hours. For working up, the reaction mixture was filtered at the boiling point to remove the sediment (potassium bromide and a little potassium carbonate) and the filter residue was repeatedly rinsed with dichloromethane. The combined filtrates were freed from the solvent in vacuo, and the crystalline residue was recrystallised from ethyl methyl ketone to yield 1,4-bis(1-benzyl-2,2,6,6-tetramethylpiperidin-4-yl-methyl)-benzene, m.p. 207°-208° C. (compound No. 15).

reactant | benzyl bromide | 8.72 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1,4-bis-(2,2,6,6-tetramethylpiperidin-4-yl-methyl)-benzene | 9.6 g | CC1(NC(CC(C1)CC1=CC=C(C=C1)CC1CC(NC(C1)(C)C)(C)C)(C)C)C | C26H44N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
product | 1,4-bis(1-benzyl-2,2,6,6-tetramethylpiperidin-4-yl-methyl)-benzene | C(C1=CC=CC=C1)N1C(CC(CC1(C)C)CC1=CC=C(C=C1)CC1CC(N(C(C1)(C)C)CC1=CC=CC=C1)(C)C)(C)C | C40H56N2
